US05270466
Preparation of 5-Chloro-4-(dimethylamino)-8-quinazolinol, hydrochloride
A solution of 4,5-Dichloro-8-quinazolinol (0.6 g, 2.8 mmol) in dichloromethane is added to a saturated solution of dimethylamine gas in dichloromethane. The reaction mixture is stirred for 30 minutes, re-saturated with dimethylamine gas, stirred for 30 minutes and concentrated in vacuo to obtain a yellow solid. The solid is added to a 2.5% hydrochloric acid/ethyl acetate mixture. The mixture is filtered and the filter cake is washed with water and dried in a vacuum oven to give the title product as a white solid, 0.35 g, mp 232° C. (dec.).

reactant | 4,5-Dichloro-8-quinazolinol | 2.8 mmol, 0.6 g | ClC1=NC=NC2=C(C=CC(=C12)Cl)O | C8H4Cl2N2O
reactant | dimethylamine | CNC | C2H7N
reactant | hydrochloric acid ethyl acetate | Cl.C(C)(=O)OCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Chloro-4-(dimethylamino)-8-quinazolinol, hydrochloride | Cl.ClC1=C2C(=NC=NC2=C(C=C1)O)N(C)C | InChI=1S/C10H10ClN3O.ClH/c1-14(2)10-8-6(11)3-4-7(15)9(8)12-5-13-10;/h3-5,15H,1-2H3;1H
